Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
altered speech
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mrs. ___ is a ___ w/ h/o remote TIA then another TIA
yesterday, on Xarelto as well as NPH s/p VPS, HTN and HLD who
presents today with aphasia again. Overall symptoms were exactly
the same as ___. She describes sudden onset inability to
produce speech at 1310. Patient reports being able to understand
and think of what she wanted to say but couldn't produce the
words. This lasted only until the ED. Its unclear but at some
point there was concern for right sided facial droop and 
weakness
but patient and daughter deny this. Her speech currently is back
to normal. For her first TIA on ___ she presented to ___ and was discharged home with TIA diagnosis. Today
presented to ___ ED where ___ stroke scale of 1 for
getting the month incorrect. Otherwise, no deficits. Is on
Xarelto so not a TPA candidate. CTA concerning for right 50%
Internal, carotid stenosis With ulcerative plaque. 
 
Past Medical History:
HTN
HLD
VPS placed about ___ years ago for NPH
 
Social History:
___
Family History:
na
 
Physical Exam:
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx.
Neck: No nuchal rigidity.
Pulmonary: Normal work of breathing.
Cardiac: warm, well-perfused.
Abdomen: Soft, non-distended.
Extremities: No ___ edema.
Skin: No rashes or lesions noted.
 
Neurologic:
-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive, able to name ___ backward without
difficulty. Language is fluent with intact repetition and
comprehension. Normal prosody. There were no paraphasic errors.
Able to name both high and low frequency objects.  Able to read
without difficulty. No dysarthria. Able to follow both midline
and appendicular commands. There was no evidence of apraxia or
neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without
nystagmus. Normal saccades. VFF to confrontation.
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions. Strength
full with tongue-in-cheek testing.

-Motor: Normal bulk and tone throughout. No pronator drift. No
adventitious movements, such as tremor or asterixis noted.
  [___]
L    5    5    5    5    5    5   5-    5    5   5    5    5
R    5    5    5    5    5    5   5-    5    5   5    5    5

-Sensory: No deficits to light touch, pinprick, temperature, 
vibration,throughout. No extinction to DSS. 

-Reflexes:
  [Bic] [Tri] [___] [Pat] [Ach]
L   2     2      2      1     1
R   2     2      2      1     1 
Plantar response was flexor bilaterally.

-Coordination: No intention tremor. Normal finger-tap
bilaterally. No dysmetria on FNF or HKS bilaterally.
-Gait: Feeling too unsteady to walk

DISCHARGE PHYSICAL EXAM:
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx.
Neck: No nuchal rigidity.
Pulmonary: Normal work of breathing.
Cardiac: warm, well-perfused.
Abdomen: Soft, non-distended.
Extremities: No ___ edema.
Skin: No rashes or lesions noted.
 
Neurologic:
-Mental Status: Alert, oriented to ___, president. Able to 
relate history
without difficulty. Attentive, able to name ___ backward without
difficulty. Language is fluent with intact repetition and
comprehension. Normal prosody. There were no paraphasic errors.
Able to name both high and low frequency objects.  Able to read
without difficulty. No dysarthria. Able to follow both midline
and appendicular commands. There was no evidence of apraxia or
neglect. Delayed recall ___. did not improve with category or 
multiple choice.

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without
nystagmus. Normal saccades. VFF to confrontation.
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions. Strength
full with tongue-in-cheek testing.

-Motor: Normal bulk and tone throughout. No pronator drift. No
adventitious movements, such as tremor or asterixis noted.
  [___]
L    5    5    5    5    5    5   5-    5    5   5    5    5
R    5    5    5    5    5    5   5-    5    5   5    5    5

-Sensory: No deficits to light touch, throughout

-Coordination: No intention tremor. Normal finger-tap
bilaterally. No dysmetria on FNF or HKS bilaterally.

-Gait: normal
 
Pertinent Results:
___ 06:44AM BLOOD WBC-6.7 RBC-3.20* Hgb-10.7* Hct-33.1* 
MCV-103* MCH-33.4* MCHC-32.3 RDW-12.9 RDWSD-47.9* Plt ___
___ 06:44AM BLOOD ___ PTT-33.0 ___
___ 06:44AM BLOOD Glucose-92 UreaN-33* Creat-1.4* Na-142 
K-4.1 Cl-107 HCO3-24 AnGap-11
___ 09:00PM BLOOD ALT-14 AST-22 AlkPhos-62 TotBili-0.4
___ 06:44AM BLOOD Calcium-8.8 Phos-3.5 Mg-1.5* Cholest-117
___ 01:56AM BLOOD %HbA1c-5.7 eAG-117
___ 06:44AM BLOOD Triglyc-45 HDL-56 CHOL/HD-2.1 LDLcalc-52
___ 09:00PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
___ 09:57PM BLOOD Glucose-98 Creat-1.1 Na-136 K-4.6 Cl-108 
calHCO3-24
___ 01:40AM URINE Color-Straw Appear-Clear Sp ___
___ 01:40AM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-5.5 Leuks-LG*
___ 01:40AM URINE RBC-3* WBC-22* Bacteri-NONE Yeast-NONE 
Epi-1 TransE-1
___ 01:40AM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG oxycodn-NEG mthdone-NEG

CTA neck ___
MPRESSION:
1. Per NASCET criteria there is approximately 50% stenosis at 
the origin of the right internal carotid artery and a 0% 
stenosis at the origin of left internal carotid artery. There is 
a large ulcerated plaque at the right internal carotid artery 
origin and a minimal ulceration at the origin of the left 
internal carotid artery.

2. There are mild stenoses elsewhere.

cta neck ___
IMPRESSION:
1. There is very mild atherosclerotic disease of the anterior 
circulation without a tight focal stenosis. The posterior 
circulation looks grossly normal.
 
Brief Hospital Course:
___ woman with a history of atrial fibrillation on 
Xarelto, HTN, HLD, NPH s/p VPS who presents with a temporary 
episode of speech difficulties. She was unable to speak for a 
few minutes, with retained awareness. She had returned to 
baseline prior to presenting to the ED and was at baseline 
during her hospitalization. Her neurological exam was notable 
for impaired short term recall ___ but otherwise unremarkable. 
Her speech was intact. She had a CTA h/n which showed ulcerated 
plaque in the R ICA. However as she is R handed, it was not felt 
this was related to her symptoms. She was seen by vascular 
surgery. From a stroke perspective it was not felt that 
intervention on the R ICA stenosis, which was < 50% would be 
indicated, as this was not felt to be the symptomatic side. MRI 
was ordered, but not completed, as her VPS was not MRI 
compatible. As the likelihood of stroke was felt to be low, MRI 
was not felt to be essential. It was felt that a TIA seemed 
somewhat less likely, given that she had a similar episode 
earlier in the week. We did recommend she change her Xarelto to 
with dinner instead of breakfast for better absorption, but afib 
would not be expected to cause stereotyped events. Routine EEG 
was ordered to assess for risk of seizures, but not able to be 
completed inpatient. As she had a flight back home, we did not 
prolong hospitalized to obtain a routine EEG, she should have 
this done outpatient. She did show some evidence of sundowning 
while hospitalized, reporting seeing dripping water in the 
evening, when none present.

#bradycardia - she had asymptomatic bradycardia while 
hospitalized, with HR < 50 at times. She was seen by cardiology 
who recommended stopping metoprolol. She was in Mobitz 1 per 
cardiology. They did not recommend any further intervention, no 
need for pacemaker.

#UTI - UA with 22 WBC, she did not report dysuria, but has poor 
short term memory. UCx contaminated. Plan to treat with 
cefpodoxime 100 mg BID x 5days.

TRANSITIONAL ISSUES

#aphasic episode - routine EEG outpatient. Xarelto timing 
changed to dinner.

#bradycardia - type ___ Mobitz - stopped metoprolol. f/u 
cardiology outpatient

#UTI - finish cefpodoxime course (total 5 days), end date ___.

=============================================
AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack
1. Dysphagia screening before any PO intake? (x) Yes, confirmed 
done - () Not confirmed () No. If no, reason why:
2. DVT Prophylaxis administered? (x) Yes - () No. If no, why not 
(I.e. bleeding risk, hemorrhage, etc.)
3. Antithrombotic therapy administered by end of hospital day 2? 
(x) Yes - () No. If not, why not? (I.e. bleeding risk, 
hemorrhage, etc.)
4. LDL documented? (x) Yes (LDL = 52) - () No
5. Intensive statin therapy administered? (simvastatin 80mg, 
simvastatin 80mg/ezetemibe 10mg, atorvastatin 40mg or 80 mg, 
rosuvastatin 20mg or 40mg, for LDL > 70) () Yes - (x) No [if LDL 
>70, reason not given:
[ ] Statin medication allergy
[ ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist
[ x] LDL-c less than 70 mg/dL
6. Smoking cessation counseling given? () Yes - (x) No [reason 
(x) non-smoker - () unable to participate]
7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given in written 
form? (x) Yes - () No
8. Assessment for rehabilitation or rehab services considered? 
() Yes - (x) No. If no, why not? patient at baseline functional 
status
9. Discharged on statin therapy? (x) Yes - () No [if LDL >70, 
reason not given:
[ ] Statin medication allergy
[ ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist
[ ] LDL-c less than 70 mg/dL
10. Discharged on antithrombotic therapy? (x) Yes [Type: () 
Antiplatelet - (x) Anticoagulation] - () No
11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? (x) Yes - () No - If no, why not (I.e. 
bleeding risk, etc.) () N/A

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Alendronate Sodium 70 mg PO QMON 
2. Atorvastatin 10 mg PO QPM 
3. Cyanocobalamin 1000  mcg PO DAILY 
4. Chlorthalidone 12.5 mg PO DAILY 
5. Metoprolol Succinate XL 50 mg PO DAILY 
6. Rivaroxaban 15 mg PO DAILY 
7. telmisartan 15 mg oral DAILY 
8. Anoro Ellipta (umeclidinium-vilanterol) 62.5-25 mcg/actuation 
inhalation Q6H:PRN shortness of breath 

 
Discharge Medications:
1.  Cefpodoxime Proxetil 200 mg PO Q12H 
RX *cefpodoxime 100 mg 1 tablet(s) by mouth twice a day Disp #*7 
Tablet Refills:*0 
2.  Rivaroxaban 15 mg PO DINNER  
3.  Alendronate Sodium 70 mg PO QMON  
4.  Anoro Ellipta (umeclidinium-vilanterol) 62.5-25 
mcg/actuation inhalation Q6H:PRN shortness of breath  
5.  Atorvastatin 10 mg PO QPM  
6.  Chlorthalidone 12.5 mg PO DAILY  
7.  Cyanocobalamin 1000  mcg PO DAILY  
8.  Metoprolol Succinate XL 50 mg PO DAILY  
9.  telmisartan 15 mg oral DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
transient aphasia

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,

___ were hospitalized for symptoms of a period of time where ___ 
were not able to speak. ___ had a similar episode earlier in the 
week. ___ had testing with CTA of the head and neck. This did 
not show a reason for your speech issue. We planned on doing a 
MRI, but due to your VPS we could not. We had planned on 
obtaining a routine EEG, however, we were not able to have this 
done in the hospital prior to discharge. ___ should have this 
done as an outpatient once ___ return home to ___. Your 
heart rate was low while ___ were in the hospital. ___ were seen 
by the cardiologists who recommended that ___ stop metoprolol, 
they did not think ___ needed a pacemaker. Please see a 
cardiologist after going home. 

Your urine showed evidence of inflammation, so ___ were given 
antibiotics for a possible urinary infection. ___ have a few 
days of antibiotics left.

We thought it was less likely ___ had a TIA, although it is 
possible. Usually a TIA would not have the exact same symptoms 
without evolving further or stopping. We recommend ___ take the 
Xarelto at night with dinner instead of with breakfast, as ___ 
need at least a 500 calorie meal to be able to fully absorb this 
medicine. A seizure is a possibility but does not seem too 
likely, this can be assessed with an outpatient EEG. There are 
no special precautions to take for your flight home.

Sincerely,
Your ___ neurology team
 
Followup Instructions:
___